USRE029835
A solution of 1-(2,3,5-tri-O-acetyl-β -D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester (10.0 g., 26.0 mmole) in methanol (70 ml.) saturated at 0° with anhydrous ammonia was kept in a sealed pressure flask at 25° for 18 hrs. The product was crystallized from ethanol to give 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamide (5.70 g., 90.0%).

reactant | 1-(2,3,5-tri-O-acetyl-β -D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester | 26.0 mmole, 10.0 g | COC(=O)C1=NN(C=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C15H19N3O9
reactant | ammonia | N | H3N
solvent | methanol | 70 ml | CO | CH4O
product | 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamide | 5.70 g, 90.0% | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)N1N=C(N=C1)C(=O)N | C8H12N4O5
